US07700624B2
D. Preparation of ethyl 3,4,4-trimethoxypiperidine-1-carboxylate
The title compound was prepared by taking 3,4,4-trimethoxypiperidine (150 mg, 0.00086 mol) in Methylene chloride (10 mL, 0.2 mol) and adding Ethyl chloroformate (0.098 mL, 0.0010 mol) and Triethylamine (0.24 mL, 0.0017 mol). The reaction was stirred overnight and then quenched with NaHCO3. The crude was obtained by evaporating the organic layer and was taken to the next step as-is (210 mg, 99%). MS calculated for C11H21NO5: (M+H) 248; found 248.1.

reactant | 3,4,4-trimethoxypiperidine | 0.00086 mol, 150 mg | COC1CNCCC1(OC)OC | C8H17NO3
reactant | Methylene chloride | 0.2 mol, 10 mL | C(Cl)Cl | CH2Cl2
reactant | Ethyl chloroformate | 0.0010 mol, 0.098 mL | ClC(=O)OCC | C3H5ClO2
reactant | Triethylamine | 0.0017 mol, 0.24 mL | C(C)N(CC)CC | C6H15N
product | ethyl 3,4,4-trimethoxypiperidine-1-carboxylate | COC1CN(CCC1(OC)OC)C(=O)OCC | C11H21NO5
